* nebula sky130 sizing point (auto-generated; do not edit by hand)
.lib "C:/Users/DELL/Desktop/serdes-dsp-framework-main/nebula/device/spice/pdk_trim/sections/sky130_ctle_pfet__sf.lib.spice" sf
.temp 27.0

.param W=57.97671772296124 L=0.3911493163378813 NF=4
.param RL=254.6329712064977 RS=356.81770148453967 CS=2.8515485554341908e-12 IT=0.001813449296655868 CL=3.262805963205924e-14
.param VDD=1.71 VCM=1.5010229732197666

Vdd   vdd 0 {VDD}
Vcm   cm  0 {VCM}

* One swept/AC source, two VCVSs: v(inp,inn) == v(vid) exactly. This makes the
* .noise input reference DIFFERENTIAL (see the module docstring) and lets .dc
* sweep the differential input directly.
Vid   vid 0 dc 0 ac 1 sin(0 0.267338 2.5e+09)
Einp  inx cm vid 0 0.5
Einn  iny cm vid 0 -0.5
* Input attenuator (D16), code 7 of 7: A = 0.4315 (7.30 dB).
* Explicit diagnostic/historical range: 2.31739x.
* Production D16 default: 2.31739x maximum.
Xatt_sp inx inp 0 sky130_fd_pr__res_high_po w=10 l=3.41
Xatt_sn iny inn 0 sky130_fd_pr__res_high_po w=10 l=3.41
Xatt_rp0 inp att_p0 0 sky130_fd_pr__res_high_po w=8 l=16.22
Xatt_swp0 att_p0 0 cm vdd sky130_fd_pr__pfet_01v8 W=40 L=0.15 nf=1
Xatt_rn0 inn att_n0 0 sky130_fd_pr__res_high_po w=8 l=16.22
Xatt_swn0 att_n0 0 cm vdd sky130_fd_pr__pfet_01v8 W=40 L=0.15 nf=1
Xatt_rp1 inp att_p1 0 sky130_fd_pr__res_high_po w=5.73 l=4.97
Xatt_swp1 att_p1 0 cm vdd sky130_fd_pr__pfet_01v8 W=80 L=0.15 nf=2
Xatt_rn1 inn att_n1 0 sky130_fd_pr__res_high_po w=5.73 l=4.97
Xatt_swn1 att_n1 0 cm vdd sky130_fd_pr__pfet_01v8 W=80 L=0.15 nf=2
Xatt_rp2 inp att_p2 0 sky130_fd_pr__res_high_po w=5.73 l=4.97 m=2
Xatt_swp2 att_p2 0 cm vdd sky130_fd_pr__pfet_01v8 W=160 L=0.15 nf=4
Xatt_rn2 inn att_n2 0 sky130_fd_pr__res_high_po w=5.73 l=4.97 m=2
Xatt_swn2 att_n2 0 cm vdd sky130_fd_pr__pfet_01v8 W=160 L=0.15 nf=4

XM1   outp inp s1 0 sky130_fd_pr__nfet_01v8 W={W} L={L} nf={NF}
XM2   outn inn s2 0 sky130_fd_pr__nfet_01v8 W={W} L={L} nf={NF}

* Load resistors: SKY130 poly, drawn geometry from passives.to_geometry().
* Third terminal is the substrate -- it carries the res_po bottom-plate
* parasitic, half of which lands on the output node (PASSIVES.md 4.4).
Xrlp  vdd outp 0 sky130_fd_pr__res_high_po w=10 l=14.745 m=2
Xrln  vdd outn 0 sky130_fd_pr__res_high_po w=10 l=14.745 m=2

* Degeneration, between the two SOURCES (the /2 in k = 1 + (gm+gmbs)*Rs/2).
Xrs   s1 s2 0 sky130_fd_pr__res_high_po w=2 l=0.99
* MIM: two terminals, no bulk node -- the model carries no bottom plate at all
* (PASSIVES.md 4.4), which is a modelling absence, not a physical one.
Xcs   s1 s2 sky130_fd_pr__cap_mim_m3_1 w=37.595 l=37.595


* Current-mirror tail. N = W_tail/W_ref = 8; the reference device is one
* unit of the same finger width, so the mirror ratio is set by geometry and not
* by a voltage that would drift against vth across corners.
.param WT=201.656 LT=0.5 NFT=8
.param WREF=25.2069 NFREF=1 IREF=0.000226681162 CBYP=1e-11

* Physical supply-dependent reference prototype, not a precision reference.
* IREF is the nominal sizing target below, not an ideal current source.
Xbpref p_bias p_bias vdd vdd sky130_fd_pr__pfet_01v8 W=25.2069 L=0.5 nf=1
Xbpfeed nbias p_bias vdd vdd sky130_fd_pr__pfet_01v8 W=25.2069 L=0.5 nf=1
Xrbias p_bias 0 0 sky130_fd_pr__res_high_po w=1 l=5.34 m=1
XMR   nbias nbias 0 0 sky130_fd_pr__nfet_01v8 W={WREF} L={LT} nf={NFREF}
XMT1  s1    nbias 0 0 sky130_fd_pr__nfet_01v8 W={WT} L={LT} nf={NFT}
XMT2  s2    nbias 0 0 sky130_fd_pr__nfet_01v8 W={WT} L={LT} nf={NFT}
* Physical MIM bypass; body/plate area is counted, layout remains unverified.
Xcbyp nbias 0 sky130_fd_pr__cap_mim_m3_1 w=70.545 l=70.545 m=1

CLp   outp 0 {CL}
CLn   outn 0 {CL}

.control
set noaskquit
set numdgt=15
set filetype=ascii

op
print v(p_bias)
print @m.xbpref.msky130_fd_pr__pfet_01v8[id] @m.xbpfeed.msky130_fd_pr__pfet_01v8[id]
print @m.xm1.msky130_fd_pr__nfet_01v8[gm] @m.xm1.msky130_fd_pr__nfet_01v8[gmbs] @m.xm1.msky130_fd_pr__nfet_01v8[gds]
print @m.xm1.msky130_fd_pr__nfet_01v8[vth] @m.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xm1.msky130_fd_pr__nfet_01v8[vdsat]
print @m.xm1.msky130_fd_pr__nfet_01v8[vgs] @m.xm1.msky130_fd_pr__nfet_01v8[id]
print v(outp) v(s1)
* Supply branch current. The MEASURED power, so a mirror's reference branch and
* its gain error are billed rather than assumed (rule 1). Negated in Python:
* ngspice reports current INTO the source's + terminal.
print i(Vdd)
print @m.xmt1.msky130_fd_pr__nfet_01v8[id] @m.xmt1.msky130_fd_pr__nfet_01v8[vds]
print @m.xmt1.msky130_fd_pr__nfet_01v8[vdsat] @m.xmt1.msky130_fd_pr__nfet_01v8[vgs]
print @m.xmt1.msky130_fd_pr__nfet_01v8[vth] @m.xmt1.msky130_fd_pr__nfet_01v8[gm]
print @m.xmr.msky130_fd_pr__nfet_01v8[id] v(nbias)


save all @m.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xm1.msky130_fd_pr__nfet_01v8[vdsat] @m.xm1.msky130_fd_pr__nfet_01v8[id]
+ @m.xm2.msky130_fd_pr__nfet_01v8[vds] @m.xm2.msky130_fd_pr__nfet_01v8[vdsat] @m.xm2.msky130_fd_pr__nfet_01v8[id]
dc vid -1.8539157199747829 1.8539157199747829 0.004
wrdata swing.txt v(outp) v(outn)
+ @m.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xm1.msky130_fd_pr__nfet_01v8[vdsat] @m.xm1.msky130_fd_pr__nfet_01v8[id]
+ @m.xm2.msky130_fd_pr__nfet_01v8[vds] @m.xm2.msky130_fd_pr__nfet_01v8[vdsat] @m.xm2.msky130_fd_pr__nfet_01v8[id]

* S4: HD3 from transient + FFT. `.disto` returns exactly 0.0 on BSIM4 (G21).
* Exactly 20 cycles captured after 5 cycles of settling,
* so the FFT window has no leakage. The FFT itself is done in Python (rule 10).
tran 4e-12 1e-08 2e-09
linearize
let vd_t = v(outp) - v(outn)
wrdata hd3.txt vd_t

quit
.endc
.end
